US07470679B2
N-(3-Fluoro-2-formylphenyl)pivalamide
Pyridinium chlorochromate (596 mg, 2.76 mmol) was added to a solution of N-(3-fluoro-2-(hydroxymethyl) phenyl)pivalamide (415 mg, 1.84 mmol) in CH2Cl2 (50 mL) at 0° C. 5 min later the mixture was allowed stirring at room temperature for 3 hrs. The reaction mixture was passed through a thin pad layer of silica gel with CH2Cl2(2×50 mL), concentrated on rotary vacuum, and purified on a flash chromatography column eluting with 20˜50% EtOAc/hexanes (600 mL) to afford the expected product, N-(3-fluoro-2-formylphenyl)pivalamide, as a white solid(396 mg, 46% yield after five steps); 1H NMR (400 MHz, CDCl3) δppm 1.33 (s, 9H), 6.76-6.83 (m, 1H), 7.54 (td, J=8.44, 6.55 Hz, 1H), 8.56 (d, J=8.56 Hz, 1H), 10.38 (s, 1H), 11.57 (s, 1H); Mass spec. 224.11 (MH+), Calc. for C12H14FNO2 223.1.

reactant | Pyridinium chlorochromate | 2.76 mmol, 596 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | N-(3-fluoro-2-(hydroxymethyl) phenyl)pivalamide | 1.84 mmol, 415 mg | FC=1C(=C(C=CC1)NC(C(C)(C)C)=O)CO | C12H16FNO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(3-fluoro-2-formylphenyl)pivalamide | FC=1C(=C(C=CC1)NC(C(C)(C)C)=O)C=O | C12H14FNO2
